US06638929B2
A solution of 400 mg (1.38 mmol) of 4-chloro-8-nitrobenzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile in 8 mL of 2-ethoxyethanol containing 160 mg (1.38 mmol) of pyridine hydrochloride and 0.180 mL (1.65 mmol) of 3-bromoaniline is heated at reflux for 4 hours. The reaction mixture is filtered hot and the solid is stirred with methanol and ammonium hydroxide. The mixture is poured into water and the solid is collected, washing with ethyl acetate to give 363 mg (62%) of 4-(3-bromoanilino)-8-nitro[1]benzothieno[3,2-b]pyridine-3-carbonitrile as a brown solid, mp>300° C.

reactant | 4-chloro-8-nitrobenzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile | 1.38 mmol, 400 mg | ClC1=C2C(=NC=C1C#N)C1=C(S2)C=CC(=C1)[N+](=O)[O-] | C12H4ClN3O2S
reactant | 2-ethoxyethanol | 1.38 mmol, 8 mL, 160 mg | C(C)OCCO | C4H10O2
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
reactant | 3-bromoaniline | 1.65 mmol, 0.180 mL | BrC=1C=C(N)C=CC1 | C6H6BrN
product | 4-(3-bromoanilino)-8-nitro[1]benzothieno[3,2-b]pyridine-3-carbonitrile | 363 mg, 62% | BrC=1C=C(NC2=C3C(=NC=C2C#N)C2=C(S3)C=CC(=C2)[N+](=O)[O-])C=CC1 | C18H9BrN4O2S
